* source B1
R_R1         N00858 N00854  2 TC=0,0 
R_R2         N00910 N00854  3 TC=0,0 
R_R3         N01429 N00910  4 TC=0,0 
R_R7         N00869 N00854  6 TC=0,0 
R_R6         N00869 N00910  4 TC=0,0 
R_R4         N01433 N01429  5 TC=0,0 
R_R8         N00869 0  1 TC=0,0 
R_R5         N01433 N00869  3 TC=0,0 
V_V1         N00858 0 12Vdc
